US07915286B2
Preparation of 4-cyclopropylamino-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carbaldehyde oxime
To a stirred solution of 4-cyclopropylamino-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carbaldehyde (300 mg, 0.00129 mole) in ethanol, hydroxylamine hydrochloride (359 mg, 0.0051 mole) and sodium acetate (424 mg, 0.0051 mole) were added. The reaction mixture was allowed to stir at room temperature for about 50 minutes. Ethanol was removed under reduced pressure and residue was poured in water. The organic compound was extracted with ethyl acetate. Ethyl acetate layer was dried over anhydrous sodium sulfate, filtered and finally concentrated under reduced pressure to afford white solid compound. Yield: 270 mg. m/z: (M++1) 246.1.

reactant | 4-cyclopropylamino-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carbaldehyde | 0.00129 mole, 300 mg | C1(CC1)NC1=C2C(=NC=C1C=O)N(N=C2)CC | C12H14N4O
reactant | hydroxylamine hydrochloride | 0.0051 mole, 359 mg | Cl.NO
reactant | sodium acetate | 0.0051 mole, 424 mg | C(C)(=O)[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 4-cyclopropylamino-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carbaldehyde oxime | C1(CC1)NC1=C2C(=NC=C1C=NO)N(N=C2)CC | C12H15N5O
